US05919799
a) Synthesis of 5,6,7,8-tetrahydro-2-phenyl-3-formylimidazo[2,1-b]benzothiazole
3.35 g of 5,6,7,8-tetrahydro-2-phenylimidazo[2,1-b]benzothiazole was suspended in 20 ml of dimethylformamide. To the resultant mixture, 3 ml of phosphorus oxychloride was added dropwise at 0° C. over 10 minutes. The solution was gradually returned to room temperature, then heated and stirred at 60° C. for 3 hours, poured onto an aqueous sodium carbonate solution, then extracted with chloroform. The solvent was distilled off, the residue was then recrystallized from ethanol to obtain the desired substance in an amount of 2.31 g (yield of 82.0%) (melting point:150-150.5° C.).

reactant | 5,6,7,8-tetrahydro-2-phenylimidazo[2,1-b]benzothiazole | 3.35 g | C1(=CC=CC=C1)C=1N=C2SC3=C(N2C1)CCCC3 | C15H14N2S
reactant | phosphorus oxychloride | 3 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 5,6,7,8-tetrahydro-2-phenyl-3-formylimidazo[2,1-b]benzothiazole | yield of 82.0% | C1(=CC=CC=C1)C=1N=C2SC3=C(N2C1C=O)CCCC3 | C16H14N2OS
